US08389743B2
[3-(3-Chloro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutyl]-(2,3-dihydro-5H-benzo[f][1,4]oxazepin-4-yl)-methanone
To a solution of crude intermediate 17, 3-(3-chloro-4-((pyrrolidin-1-yl)methyl)phenyl)-3-hydroxycyclobutanecarboxylic acid (˜4.3 mL ˜0.65 mmol) was added 2,3,4,5-tetrahydro-benzo[f][1,4]oxazepine hydrochloride (239 mg, 1.29 mmol), triethylamine (0.18 ml, 1.29 mmol) and T3P (50% solution in EtOAc, 0.62 ml, 0.97 mmol). The resulting reaction mixture was stirred at RT for 1 hr and then 25 ml of 1N NaOH and 100 ml of EtOAc were added and the layers were separated. The aqueous layer was subjected to EtOAc extraction (2×60 ml) again and the combined organic layers were dried over MgSO4 and evaporated. The residue was purified by flash column chromatography using a 40 g ISCO™ column, eluting with 5% MeOH/CH2Cl2 containing 0.25% NH4OH. The product containing fractions were collected and concentrated under reduced pressure to give the title compound 104 mg, 37% yield. Rf=0.50 (15% MeOH/CH2Cl2+0.2% NH4OH); LRMS m/z Calcd for C25H29Cl N2 O3, 440.9, found, 441.2 (M+1) APCI; 100 MHz 13C NMR (CDCl3) 1:1 mixture of rotomers, diagnostic peaks, δ 175.4, 173.9, 159.5, 159.3, 134.2, 134.1, 131.4, 131.3, 122.0, 121.3, 121.0, 74.9, 72.6, 72.2, 56.3, 54.1, 53.9, 49.3, 48.7, 41.2, 41.0, 28.8, 28.5, 23.7, 23.6.

reactant | 3-(3-chloro-4-((pyrrolidin-1-yl)methyl)phenyl)-3-hydroxycyclobutanecarboxylic acid | ˜0.65 mmol, ˜4.3 mL | ClC=1C=C(C=CC1CN1CCCC1)C1(CC(C1)C(=O)O)O | C16H20ClNO3
reactant | 2,3,4,5-tetrahydro-benzo[f][1,4]oxazepine hydrochloride | 1.29 mmol, 239 mg | Cl.O1CCNCC2=C1C=CC=C2
reactant | triethylamine | 1.29 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | T3P | 0.97 mmol, 0.62 ml | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | NaOH | 1N, 25 ml | [OH-].[Na+]
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | [3-(3-Chloro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutyl]-(2,3-dihydro-5H-benzo[f][1,4]oxazepin-4-yl)-methanone | 104 mg, 37% yield | ClC=1C=C(C=CC1CN1CCCC1)C1(CC(C1)C(=O)N1CCOC2=C(C1)C=CC=C2)O | C25H29ClN2O3
